US04943574
To a stirred solution of 1.2 parts of sodium hydroxide in 40 parts of methanol were added 7.8 parts of 1-hydroxy-α-phenyl-1H-benzotriazole-6-methanol. After concentration, 18 parts of methylbenzene were added to the concentrate. The solvent was evaporated again and the residue was dissolved in 27 parts of N,N-dimethylformamide. 5.52 Parts of 1-iodobutane were added at once and the whole was stirred for 30 minutes at 50° C. After concentration, 30 parts of water were added. The solidified product was filtered off, washed with water and dissolved in dichloromethane. The organic layer was dried, filtered and evaporated. The residue was crystallized from 17.5 parts of 2,2'-oxybispropane. The product was filtered off and dried, yielding 7.8 parts (87.4%) of 1-butoxy-α-phenyl-1H-benzotriazole-6-methanol; mp. 89.2° C. (int. 65).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-hydroxy-α-phenyl-1H-benzotriazole-6-methanol | ON1N=NC2=C1C=C(C=C2)C(O)C2=CC=CC=C2 | C13H11N3O2
solvent | methanol | CO | CH4O
product | 1-butoxy-α-phenyl-1H-benzotriazole-6-methanol | 87.4% | C(CCC)ON1N=NC2=C1C=C(C=C2)C(O)C2=CC=CC=C2 | C17H19N3O2
